Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Jaw pain
 
Major Surgical or Invasive Procedure:
___ Incision and Drainage of left sub-masseteric abscess and 
extraction of teeth #12, 13, and 17.

 
History of Present Illness:
___ yo F, presented with left jaw pain and swelling ___. Taken to 
the OR on ___ for incision and drainage of left sub-masseteric 
abscess and extraction of teeth #12, 13, and 17. On floor from 
___, HDS, on Unasyn.
 
Pt states that she has been having pain in her lower left back 
tooth since 7 days prior to admission which has slowly 
progressed since then. On ___ the patient went to an urgent 
care center where she was given a dose of Unasyn and discharged 
home on Augmentin. Pt states that the day prior to her admission 
(___) her swelling started to increase and the night prior to 
her admission (___) she went to ___ where they did 
a CT maxillofacial without contrast and transferred her to ___ 
___. She endorses difficulty swallowing, has shifted her diet 
to fluids and mentions difficulty opening her mouth. 

In the ED: 
- Vitals: 98.8 130/66 66 18 99%
- Labs were significant for WBC 13.1, Hb 9.6, Hct 29.4. 

On arrival, patient was brought to incision and drainage of left 
sub-masseteric abscess and extraction of teeth #12, 13, and 17 
in the OR on ___. Pt's extubation in the OR was uneventful. Pt 
was transferred with a single sub-masseteric ___ to medicine 
for IV Abx. Her pain is well controlled (0 on VAS scale), she is 
ambulating and tolerating PO. She states that she is feeling 
better. Hemodynamically stable.  

 
Past Medical History:
- Migraines 
- GERD 
- Herniated lumbar disc
- Sleep apnea
- Tubal ligation
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM:
General: Alert, cooperative and interactive.
Head: Atraumatic and normocephalic.
eyes: EOMI, PERLL, vision grossly intact.
Ears: No external deformity.
Nose: Unremarkable.
EOE: Edema on the left middle and lower face. A-P extent is from 
the left ear lobe up to about 4 cm away from the left 
commissure. Sup-inf
extent is from the L temple region to obliteration of the left 
inferior border of the mandible. 
TMJ: Limited exam due to edema. No clicking or popping. Reduced
ROM consistent with the edema. 
IOE: Limited IOE due to trismus. No eccymosis noted. No nerve
deficit. OP clear. Trismus to 10mm. Dysphagia present. Grossly
decayed/root stumps with #17 and grossly decayed #12 and 13. 
Neck: Normal ROM, supple. Minimal edema and erythema seen in the
L neck extending to the midline.
CV: Regular rate and rhythm, normal S1 + S2.  
Pulm: No acute distress.
Neuro: CN II to XII intact. No motor or sensory deficit.

DISCHARGE EXAM:

Physical examination:
Vitals: T99.1 BP 116 / 61 HR 60 RR 18 SPO2 99 RA 
General: Alert, cooperative and interactive.
HEENT:
Head: Atraumatic and normocephalic.
eyes: EOMI, PERLL, vision grossly intact.
Ears: No external deformity.
Nose: Unremarkable.
EOE: Much improved edema on the left middle and lower face. 
Trismus improved. Normal voice.
Neck: Normal ROM, supple. Minimal edema and erythema seen in the
L neck extending to the midline.
CV: Regular rate and rhythm, normal S1 + S2.  
Pulm: No acute distress.
Neuro: CN II to XII intact. No motor or sensory deficit. 
 
Pertinent Results:
SELECTED LABS:
___ 06:45AM BLOOD WBC-13.1* RBC-3.00* Hgb-9.6* Hct-29.4* 
MCV-98 MCH-32.0 MCHC-32.7 RDW-12.0 RDWSD-43.2 Plt ___
___ 05:30AM BLOOD WBC-18.2* RBC-2.95* Hgb-9.4* Hct-28.2* 
MCV-96 MCH-31.9 MCHC-33.3 RDW-11.9 RDWSD-40.7 Plt ___
___ 05:05AM BLOOD WBC-12.5* RBC-2.88* Hgb-9.3* Hct-27.6* 
MCV-96 MCH-32.3* MCHC-33.7 RDW-12.1 RDWSD-42.6 Plt ___
___ 06:45AM BLOOD Neuts-70.3 ___ Monos-8.2 Eos-0.8* 
Baso-0.4 Im ___ AbsNeut-9.23* AbsLymp-2.61 AbsMono-1.07* 
AbsEos-0.11 AbsBaso-0.05

___ 06:45AM BLOOD ___ PTT-30.9 ___

___ 06:45AM BLOOD Glucose-98 UreaN-8 Creat-0.6 Na-138 K-3.5 
Cl-104 HCO3-24 AnGap-14
___ 05:05AM BLOOD Glucose-90 UreaN-9 Creat-0.6 Na-137 K-3.3 
Cl-101 HCO3-26 AnGap-13
___ 05:30AM BLOOD LD(LDH)-173 TotBili-0.3
___ 05:30AM BLOOD Calcium-8.7 Phos-3.8 Mg-2.0 Iron-35
___ 05:30AM BLOOD calTIBC-190* VitB12-436 Folate-12.3 
Hapto-326* Ferritn-192* TRF-146*
___ 05:30AM BLOOD TSH-0.74
___ 05:30AM BLOOD HCG-<5

MICRO:
___ 12:00 pm ABSCESS     Site: NECK      LEFT NECK ABSCESS. 

      SOURCE CHANGED FROM TISSUE TO ABSCESS. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
                                    CONSISTENT WITH 
CORYNEBACTERIUM OR     
                                   PROPIONIBACTERIUM SPECIES. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
in this
         culture. 

   ANAEROBIC CULTURE (Preliminary):    RESULTS PENDING. 
 
Brief Hospital Course:
Ms. ___ is a ___ who presented with left jaw pain and 
swelling. 

Her initial presentation was concerning for sub-masseteric 
abscess. She was brought to the OR on ___ by OMFS for incision 
and drainage of left sub-masseteric abscess and extraction of 
teeth #12, 13, and 17. She was initially covered with Unasyn for 
infection and then transitioned to Augmentin prior to discharge 
(last day of Augmentin ___. 

Pain was controlled with acetaminophen, ibuprofen and oxycodone. 
She improved on the medical floor including improvement of pain, 
swelling and trismus. She was discharged with close OMFS 
followup.

TRANSITIONAL ISSUES:
- Augmentin 875mg BID for 7 days following discharge
- Continue Peridex mouthrinse BID until follow-up appointment
- Patient will go home with drain in place. It will be removed 
at
follow up appointment. Gauze bandage over drain should be 
changed
daily.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 325 mg 2 tablet(s) by mouth Four times a day 
Disp #*60 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 15 
Doses 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
Twice a day Disp #*15 Tablet Refills:*0 
3.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate 0.12 % Rinse mouth Twice a day 
Refills:*0 
4.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice a day 
Disp #*60 Capsule Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 6 hours Disp #*15 
Tablet Refills:*0 
6.  Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Three times a day Disp 
#*15 Tablet Refills:*0 
7.  Gabapentin 300 mg PO TID  
8.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Left sub-masseteric abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being part of your care at ___. You were 
admitted to the hospital due to a jaw infection. You had surgery 
to drain your infection on ___ and were also treated with 
antibiotics. Your symptoms improved.

After discharge please complete your antibiotic regimen. You 
will follow up in clinic as instructed below.

It was a pleasure being part of your care,
Your ___ Team
 
Followup Instructions:
___